US08809525B2
2-Pyridylglyoxal (8.0 g, crude) was prepared from selenium dioxide (15 g, 135 mmol) and 2-acetyl pyridine (10 g, 82 mmol) according to the typical procedure used for Preparation 1.

reactant | selenium dioxide | 135 mmol, 15 g | [Se](=O)=O | O2Se
reactant | 2-acetyl pyridine | 82 mmol, 10 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
product | 2-Pyridylglyoxal | 8.0 g | N1=C(C=CC=C1)C(=O)C=O | C7H5NO2
